US06326388B1
2-[1-(3,4-Dimethoxyphenyl)-2-(1,3,4-oxadiazol-2-yl)ethyl]isoindoline-1,3-dione was prepared by the procedure of Example 8 from 3-(3,4-dimethoxyphenyl)-3-(1,3-dioxoisoindolin-2-yl)propanoic acid (2.0 g, 3.6 mmol), carbonyidiimidazole (1.0 g, 6.2 mmol), formic hydrazide (0.41 g, 6.8 mmol), and phosphorus oxychloride (1.3 mL, 14 mmol) in acetonitrile (20 mL). The product was obtained as a white solid (730 mg, 34% yield): mp, 83.0-85.0° C.; 1H NMR (CDCl3) δ 3.82 (dd, J=6.0, 16.0 Hz, 1H, CHH), 3.85 (s, 3H, CH3), 3.90 (s, 3H, CH3), 4.39 (dd, J=10.3, 15.7 Hz, 1H, CHH), 5.84 (dd, J=6.0, 10.3 Hz, 1H, NCH), 6.81-6.85 (m, 1H, Ar), 7.16-7.19 (m, 2H, Ar), 7.68-7.73 (m, 2H, Ar), 7.77-7.83 (m, 2H, Ar), 8.30 (s, 1H, CH); 13C NMR (CDCl3) δ 27.66, 51.76, 55.79, 55.89, 111.00, 111.07, 120.29, 123.3,8, 130.16, 131.55, 134.07, 149.03, 149.11, 152.96, 163.90, 167.86; Anal Calcd for C20H17N3O6+0.3 Et2O: C, 63.22; H, 5.20; N, 10.32. Found: C, 63.40; H, 5.02; N, 10.46. (1H NMR showed that the sample contained 30% of ether).

reactant | 3-(3,4-dimethoxyphenyl)-3-(1,3-dioxoisoindolin-2-yl)propanoic acid | 3.6 mmol, 2.0 g | COC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C2=CC=CC=C2C1=O)=O | C19H17NO6
reactant | carbonyidiimidazole | 6.2 mmol, 1.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | formic hydrazide | 6.8 mmol, 0.41 g | C(=O)NN | CH4N2O
reactant | phosphorus oxychloride | 14 mmol, 1.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-[1-(3,4-Dimethoxyphenyl)-2-(1,3,4-oxadiazol-2-yl)ethyl]isoindoline-1,3-dione | COC=1C=C(C=CC1OC)C(CC=1OC=NN1)N1C(C2=CC=CC=C2C1=O)=O | C20H17N3O5
